US08304419B2
Step D: 3-{[3-(aminomethyl)-6-ethyl-2-fluorophenyl]oxy}-5-chlorobenzonitrile
TFA (1.903 ml, 24.70 mmol) was added to a solution of 1,1-dimethylethyl({3-[(3-chloro-5-cyanophenyl)oxy]-4-ethyl-2-fluorophenyl}methyl)carbamate (0.5 g, 1.235 mmol) in DCM (30 mL) at RT under an atmosphere of nitrogen. After 16 h, the solution was concentrated under vacuum. Saturated NaHCO3 solution (100 mL) and ethyl acetate (100 mL) were added and the mixture was stirred for 1 h. The organic layer was separated, washed with water (100 mL), brine (100 mL), dried over Na2SO4, filtered and concentrated to give the title compound (0.38 g, >99%) as a brown oil. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 7.29-7.33 (m, 1H), 7.21-7.27 (m, 1H), 7.13 (t, 1H), 7.09 (d, 1H), 6.98 (s, 1H), 3.92 (s, 2H), 2.54 (d, 2H), 1.54 (d, 2H), 1.13-1.19 (m, 3H).

reactant | TFA | 24.70 mmol, 1.903 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | 1,1-dimethylethyl({3-[(3-chloro-5-cyanophenyl)oxy]-4-ethyl-2-fluorophenyl}methyl)carbamate | 1.235 mmol, 0.5 g | CC(C)(C)N(C([O-])=O)CC1=C(C(=C(C=C1)CC)OC1=CC(=CC(=C1)C#N)Cl)F
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
product | 3-{[3-(aminomethyl)-6-ethyl-2-fluorophenyl]oxy}-5-chlorobenzonitrile | 0.38 g, >99% | NCC=1C(=C(C(=CC1)CC)OC=1C=C(C#N)C=C(C1)Cl)F | C16H14ClFN2O
